US07977331B1
To a solution of 12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (100 mg, 0.26 mmol) and ethyl (E)-3-{(4-[(1-aminocyclobutanecarbonyl)amino]phenyl}acrylate hydrochloride (74 mg, 0.26 mmol) in N,N-dimethylformamide (2 ml) were added 1-hydroxybenzotriazole monohydrate (59 mg, 0.38 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (73 mg, 0.38 mmol) and triethylamine (78 μl, 0.56 mmol) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate-2:1-1:2). Hexane:diethyl ether (1:1) solution was added to the obtained residue, and the precipitated solid was collected by filtration, and washed with hexane:diethyl ether (1:1) solution. The obtained solid was dried in vacuo to give ethyl (E)-3-[4-({1-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]cyclobutanecarbonyl}amino)phenyl]acrylate (102 mg, yield 60%).

reactant | 12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 0.26 mmol, 100 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)O | C24H25NO4
reactant | (4-[(1-aminocyclobutanecarbonyl)amino]phenyl}acrylate hydrochloride | 0.26 mmol, 74 mg | Cl.NC1(CCC1)C(=O)NC1=CC=C(C=C1)OC(C=C)=O
reactant | 1-hydroxybenzotriazole monohydrate | 0.38 mmol, 59 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.38 mmol, 73 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.56 mmol, 78 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl (E)-3-[4-({1-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]cyclobutanecarbonyl}amino)phenyl]acrylate | 102 mg, yield 60% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC2(CCC2)C(=O)NC2=CC=C(C=C2)/C=C/C(=O)OCC | C40H43N3O6
